US04009166
To a solution of 0.7 g of 1-(m-trifluoromethylphenyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine and 10 ml of dimethylformamide was added 0.13 g of sodium hydride. To this was added a mixture of 5.1 g of methyl iodide and 5 ml of dimethylformamide, dropwise under cooling, and immediately the resulting mixture was heated for 1.5 hour in an oil bath maintained at 100° C. After the reaction was complete, the solvent was distilled off under reduced pressure to leave a residue, to which was added ice-cold water. This residue was extracted with ether, washed and dehydrated. Separation and purification were accomplished by passing the solution through a column of alumina, and the eluate obtained was concentrated to give 0.6 g of 1-(m-trifluoromethylphenyl)-3-methyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine as colorless prisms, melting at 122° - 124° C.

reactant | 1-(m-trifluoromethylphenyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine | 0.7 g | FC(C=1C=C(C=CC1)N1C(NCC2=C1N=CC=C2)=O)(F)F | C14H10F3N3O
reactant | sodium hydride | 0.13 g | [H-].[Na+]
reactant | methyl iodide | 5.1 g | CI | CH3I
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(m-trifluoromethylphenyl)-3-methyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-d]pyrimidine | 0.6 g | FC(C=1C=C(C=CC1)N1C(N(CC2=C1N=CC=C2)C)=O)(F)F | C15H12F3N3O
